US08022209B2
To a solution of 3-(4-chloro-pyridin-2-yl)-thiophene-2-carbaldehyde (20 mg, 0.1 mmol) in dichloromethane (3 mL) was added dimethylamine water solution (40%, 0.6 mL) and sodium triacetoxyborohydride (42 mg, 0.2 mmol). The resulting mixture was stirred at room temperature for 16 hours, then washed with NaHCO3 solution and water and concentrated. The resulting residue was purified by preparative TLC to yield [3-(4-Chloro-pyridin-2-yl)-thiophen-2-ylmethyl]-dimethyl-amine.

reactant | 3-(4-chloro-pyridin-2-yl)-thiophene-2-carbaldehyde | 0.1 mmol, 20 mg | ClC1=CC(=NC=C1)C1=C(SC=C1)C=O | C10H6ClNOS
reactant | dimethylamine water | 0.6 mL | O.CNC
reactant | sodium triacetoxyborohydride | 0.2 mmol, 42 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | [3-(4-Chloro-pyridin-2-yl)-thiophen-2-ylmethyl]-dimethyl-amine | ClC1=CC(=NC=C1)C1=C(SC=C1)CN(C)C | C12H13ClN2S
